US04347378
N,N-bis(Lauroyloxyethyl)lauroyloxyacetamide
This compound was prepared from 131 g (0.6 mole) of lauroyl chloride and 32.6 g (0.2 mole) of N,N-bis(hydroxyethyl)hydroxyacetamide by the procedure of Example 1. Its structure was established by infrared and nuclear magnetic resonance spectroscopy. It was a low-melting solid and had nD30 1.4597 and m.p. 29.6° C.

reactant | lauroyl chloride | 0.6 mole, 131 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | N,N-bis(hydroxyethyl)hydroxyacetamide | 0.2 mole, 32.6 g | OCCN(C(CO)=O)CCO | C6H13NO4
product | N,N-bis(Lauroyloxyethyl)lauroyloxyacetamide | C(CCCCCCCCCCC)(=O)OCCN(C(COC(CCCCCCCCCCC)=O)=O)CCOC(CCCCCCCCCCC)=O | C42H79NO7
